US06780980B1
1-thio-b-galactopyranose (1.5 mg) is dissolved in 150 μl of buffer A (20 mM citric acid, 35 mM Na2HPO4, 108 mM NaCl, 1 mM ethylenediamine-tetraacetic acid (EDTA)) and 150 μl of ethanol, N-(m-(3-trifluoromethyl)diazirine-3-yl)phenyl)-4-maleimido-butyramide (MAD, 3.3 mg, preparation according to A. Collioud et al., Bioconjugate Chemistry 4, 528-536 (1993)) is dissolved in 150 μl of ethanol and an additional 150 μl of buffer A. Both solutions are mixed. The mixture is stirred and allowed to react at room temperature for 90 min, to give the compound MAD-Gal. The product is purified by HPLC. The HPLC flow rate is 2 ml/min. For gradient elution (0 min.-100% A; 5 min.-100% A; 20 min.-70% A; 30 min.-0% A; 40 min. 0%A), solvent B is added to solvent A (solvent A, 0.1% TFA in water; solvent B, 0.1% TFA in acetonitrile/water (4:1 by volume)). Detection is performed at 254 nm and fractions of the eluant are collected. 13C.NMR (D2O chemical shift (δ) in parts per million): 179.14, 178.40, 177.99, 177.86, 173.30, 137.79, 129.53, 129.38, 122.46, 121.84, 118.32, 84.42, 84.27, 78.99, 78.91, 73.84, 73.66, 69.73, 69.68, 68.58, 68.49, 60.80, 60.69, 39.61, 38.66, 38.46, 37.71, 35.83, 33.57, 22.68, 22.57 ppm. Mass Calc (M−H): 561.1 Da/e, found: 561.1 Da/e.

reactant | 1-thio-b-galactopyranose | 1.5 mg | S[C@H]1[C@H](O)[C@@H](O)[C@@H](O)[C@H](O1)CO | C6H12O5S
reactant | citric acid | 20 mM | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | NaCl | 108 mM | [Na+].[Cl-]
reactant | ethylenediamine-tetraacetic acid | 1 mM | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
reactant | 4-maleimido-butyramide | C1(C=CC(N1CCCC(=O)N)=O)=O | C8H10N2O3
solvent | ethanol | 150 μl | C(C)O | C2H6O
solvent | ethanol | 150 μl | C(C)O | C2H6O
product | MAD Gal | C1(C=CC(N1CCCC(=O)N)=O)=O.OC1[C@H](O)[C@@H](O)[C@@H](O)[C@H](O1)CO | InChI=1S/C8H10N2O3.C6H12O6/c9-6(11)2-1-5-10-7(12)3-4-8(10)13;7-1-2-3(8)4(9)5(10)6(11)12-2/h3-4H,1-2,5H2,(H2,9,11);2-11H,1H2/t;2-,3+,4+,5-,6?/m.1/s1
